US07148226B2
Preparation of compound (+)-6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one
To the optically pure (+)-1-cyclopentyl-1-[(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)methyl]prop-2-ynyl ethyl oxalate (2.5 g, 15.1 mmol) in 50 ml of MeOH was added K2CO3 (2.0 g). The mixture was stirred at 23° C. for 8 h. After complete conversion, the mixture was neutralized with 1N HCl at cold temperature. The aqueous solution was extracted with MTBE (×3) and the organic layer was washed with brine and dry over MgSO4. After removal of MTBE, 1.75 g of the desired product (+ enantiomer) was produced with 95.5% ee and 96% yield.

reactant | (+)-1-cyclopentyl-1-[(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)methyl]prop-2-ynyl ethyl oxalate | 15.1 mmol, 2.5 g | C(C(=O)OCC)(=O)OC(C#C)(CC1=CC(OC(O1)(C)C)=O)C1CCCC1 | C19H24O7
reactant | K2CO3 | 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 50 ml | CO | CH4O
product | (+)-6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one | 96% yield | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#C)O | C15H20O4
